US06825181B1
Step 1: Synthesis of t-butyl [3-(1-aminoisoquinoline-7-yloxy)propyl]carbamate:
4.0 g (12.7 mmol) of 1-amino-7-hydroxyisoquinoline monohydrobromide was dissolved in 50 ml of DMF. 4.42 g (18.6 mmol) of t-butyl (3-chloropropyl)carbamate, 8.76 g (63.5 mmol) of potassium carbonate and 4.69 g (12.7 mmol) of tetrabutylammonium iodide were added to the obtained solution, and they were stirred at 70° C. for 3 days. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the crude product was obtained, which was then purified by the silica gel column chromatography to obtain the title compound.

reactant | 1-amino-7-hydroxyisoquinoline monohydrobromide | 12.7 mmol, 4.0 g | Br.NC1=NC=CC2=CC=C(C=C12)O
reactant | t-butyl (3-chloropropyl)carbamate | 18.6 mmol, 4.42 g | ClCCCNC(OC(C)(C)C)=O | C8H16ClNO2
reactant | potassium carbonate | 63.5 mmol, 8.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 12.7 mmol, 4.69 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | t-butyl [3-(1-aminoisoquinoline-7-yloxy)propyl]carbamate | NC1=NC=CC2=CC=C(C=C12)OCCCNC(OC(C)(C)C)=O | C17H23N3O3
